US07868003B2
3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-oxazolidine-2,4-dione
N-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-2-hydroxy-acetamide (20 mg) was dissolved in absolute THF (2 ml), and reacted at room temperature with sodium hexamethyldisilazide solution (0.5 ml; 2 M in THF) with stirring. Afterward, 1,1-carbonyldiimidazole (13 mg) was added and the mixture was stirred at room temperature for 2 h. After standing overnight, the reaction mixture was concentrated, the residue was dissolved in ethyl acetate/water and basified with sodium hydrogencarbonate solution, and the phases were separated. The aqueous phase was extracted three times with ethyl acetate. The combined extracts were dried with magnesium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC. The fractions comprising product were combined, the acetonitrile was removed on a rotary evaporator, and the aqueous residue was neutralized with saturated sodium hydrogencarbonate solution and extracted three times with ethyl acetate. After the combined ethyl acetate phases had been dried over magnesium sulfate, they were filtered and concentrated to dryness. The residue was dissolved in water/acetonitrile and the clear solution was freeze-dried overnight. 10 mg of the desired product were obtained.

reactant | N-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-2-hydroxy-acetamide | 20 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)NC(CO)=O | C18H18Cl2N2O2
reactant | sodium hexamethyldisilazide | 2 M, 0.5 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-oxazolidine-2,4-dione | 10 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(OCC1=O)=O | C19H16Cl2N2O3
